US05362708
(4'-Fluorobenzoyl)-acrylic acid (582 g, 2.998 mol of m.p.=134°-137° C.) was dissolved in ethanol (3300 ml), p-toluenesulfonic acid (23 g) and sulfuric acid (conc., 4 ml) was added, and the mixture was then refluxed for 18 hours. The mineral acid was then neutralized by adding anhydrous sodium bicarbonate. The inorganic salts were then filtered off, a hydrazine solution (6 mol hydrazine, 700 ml of water) was added to the mechanically stirred solution of the esterification product, and the mixture was refluxed for three hours. A solid product precipitated, and this product was isolated, washed with water, mixed with dilute hydrochloric acid (700 ml of concentrated HCl, 1600 ml of water) while still moist from filtration with suction, and the mixture was refluxed for 2 hours. The mixture was cooled, and the resulting solid product was isolated, washed with water and dried to constant weight. 3-(4'-Fluorophenyl)-6-pyridazinone was obtained in the form of a yellowish solid product (390 g, 2.0508 mol, 68.4% of theory) of m.p.=266°-269° C. Recrystallization from dioxane gave a virtually colorless product which sublimes from about 170° C. in the form of broad crystals and which melts at 269°-270.5° C.

reactant | (4'-Fluorobenzoyl)-acrylic acid | 2.998 mol, 582 g | FC1=CC=C(C(=O)C(C(=O)O)=C)C=C1 | C10H7FO3
reactant | p-toluenesulfonic acid | 23 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrazine | 6 mol, 700 ml | NN | H4N2
solvent | ethanol | 3300 ml | C(C)O | C2H6O
product | 3-(4'-Fluorophenyl)-6-pyridazinone | FC1=CC=C(C=C1)C1=NNC(C=C1)=O | C10H7FN2O
